US08748446B2
2 g of 3,5-diiodophenylhydrazine (5.5 mmol), and 1 mL (9.3 mmol) of 3-methyl-2-butanone were refluxed in 15 mL of acetic acid for 20 hours. The acetic acid was evaporated and the residue was dissolved in ether. Insoluble precipitate was filtered off, and the etheric solution was washed with aqueous solutions of NaHCO3, followed by Na2S2O3 and water. The organic layer was dried with CaCl2 and ether was removed under reduced pressure by a rotary evaporator to give 1.4 g of 4,6-diiodo-2,3,3-trimethyl-3H-indole. 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 7.92 (1H, d, 1.1 Hz, arom.), 7.79 (1H, d, 1.1 Hz, arom.), 2.22 (3H, s, 2-CH3), 1.32 (6H, s, C(CH3)2).

reactant | 3,5-diiodophenylhydrazine | 5.5 mmol, 2 g | IC=1C=C(C=C(C1)I)NN | C6H6I2N2
reactant | 3-methyl-2-butanone | 9.3 mmol, 1 mL | CC(C(C)=O)C | C5H10O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4,6-diiodo-2,3,3-trimethyl-3H-indole | 1.4 g | IC1=C2C(C(=NC2=CC(=C1)I)C)(C)C | C11H11I2N
